US06476030B1
a) 3-tert-Butyl-4-hydroxy-2-furanone
To 4-hydroxy-2-furanone (50 g, 0.5 mol) in tert-butanol (50 ml, 0.53 mol) was added concentrated sulfuric acid (25 ml). The mixture was heated at 40° C. for 20 h then allowed to cool. Water (250 ml) was added and the mixture was extracted with diethyl ether (3×250 ml), the diethyl ether layers were combined, washed with brine (250 ml), dried (Na2SO4), filtered and concentrated in vacuo to give a brown solid. The solid was purified by silica gel chromatography with 0%→100% ethyl acetate/isohexane as eluent followed by two recrystallisations from ethyl acetate/isohexane (1:1) to afford the required product (5.75 g). Data for the title compound: 1H NMR (400 MHz, DMSO) δ 1.21 (9H, s), 4.48 (2H, s), 11.40 (1H, s); MS (ES+) m/e 156 [MH]+.

reactant | 4-hydroxy-2-furanone | 0.5 mol, 50 g | OC=1CC(OC1)=O | C4H4O3
reactant | tert-butanol | 0.53 mol, 50 ml | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | Water | 250 ml | O | H2O
product | 3-tert-Butyl-4-hydroxy-2-furanone | 5.75 g | C(C)(C)(C)C1C(OC=C1O)=O | C8H12O3
